US07582657B2
2-(3-{(2E)-3-[4-(tert-Butyl)phenyl]prop-2-enoylamino}phenoxy)acetic acid
To a round-bottomed flask equipped with magnetic stirring was added (2E)-3-[4-(tert-butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide, Example 23, (120 mg, 0.407 mmol), THF (10 mL), tert-butyl bromoacetate (60 uL, 0.407 mmol, Aldrich) and 5 N NaOH (10 mL). The reaction mixture was stirred at 25° C. overnight. The mixture was extracted with EtOAc (20 mL), the organic extract washed with water (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was treated with trifluoroacetic acid (10 mL), stirred at 25° C. for 2 h, then concentrated in vacuo. Purification by silica gel chromatography (1:2 hexane:EtOAc) provided the title product as an off-white solid. MP 166-172° C. MS (ESI, pos. ion) m/z: 354 (M+1).

reactant | (2E)-3-[4-(tert-butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=CC=C1)O | C19H21NO2
reactant | THF | 0.407 mmol, 10 mL, 120 mg | C1CCOC1 | C4H8O
reactant | tert-butyl bromoacetate | 0.407 mmol, 60 uL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | NaOH | 5 N, 10 mL | [OH-].[Na+]
product | 2-(3-{(2E)-3-[4-(tert-Butyl)phenyl]prop-2-enoylamino}phenoxy)acetic acid | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC=1C=C(OCC(=O)O)C=CC1 | C21H23NO4
